US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-bromo-5-cyanophenyl)-1,2,4-oxadiazole (101 mg, 0.31 mmol), tetrakis(triphenylphosphine) palladium(0) (Pd(PPh3)4, 25 mg, 0.021 mmol) and tri-n-butyl(2-pyridyl)tin in tetrahydrofuran (2 mL) was heated overnight at 100° C. The reaction mixture was cooled and transferred directly onto a flash silica column. Elution with a gradient of hexane:ethyl acetate:chloroform 3:1:4 to 2.5:1:4 followed by trituration with hexane in dichloromethane afforded 22 mg (22%) of 3-(2-pyridyl)-5-(3-cyano-5-(2-pyridyl)phenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3): δ-9.12 (s, 1H), 8.88 (d, 1H), 8.78 (d, 1H), 8.64 (s, 1H), 8.61 (s, 1H), 8.26 (d, 1H), 7.89 (m, 3H), 7.51 (m, 1H), 7.40 (m, 1H).

reactant | 3-(2-pyridyl)-5-(3-bromo-5-cyanophenyl)-1,2,4-oxadiazole | 0.31 mmol, 101 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)Br | C14H7BrN4O
reactant | tri-n-butyl(2-pyridyl)tin | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.021 mmol, 25 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(2-pyridyl)-5-(3-cyano-5-(2-pyridyl)phenyl)-1,2,4-oxadiazole | 22 mg, 22% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C1=NC=CC=C1)C#N | C19H11N5O
